US04082850
A mixture of 7.0 g of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid, Example 2, 175 ml of n-propanol, and 4.6 ml of concentrated sulfuric acid is refluxed for 17 hours. The reaction mixture is permitted to cool and the solvent removed leaving an oil. The oil is dissolved in ether and washed successively with water, a 5% sodium hydroxide solution and water and dried and the ether removed to give a yellow oil which crystallizes upon standing. The solid is dried on a porous plate resulting in an off-white solid, mp 30°-32° C, of n-propyl 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetate.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid | 7.0 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
reactant | n-propanol | 175 ml | C(CC)O | C3H8O
reactant | sulfuric acid | 4.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
product | n-propyl 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetate | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OCCC | C19H18O4
